US06291464B1
To a solution of N-piperazinyl-p-fluorobenzamide hydrobromide (300 mg), cinnamic acid (161 mg), and 1-hydroxybenzotriazole (173 mg) in N,N-dimethylformamide (6 ml) was added N-ethyl-N′-(3-dimethylaminopropyl)carbodiimide hydrochloride (246 mg) and triethylamine (0.28 ml) at 5° C. The mixture was stirred at 5° C. for 1 hour, and then poured into ethyl acetate and brine. The organic layer was separated, dried over magnesium sulfate, and concentrated. The residue was crystallized from ethyl acetate-diethyl ether to give N-(4-cinnamoyl-1-piperazinyl)-p-fluorobenzamide (0.14 g).

reactant | N-piperazinyl-p-fluorobenzamide hydrobromide | 300 mg | Br.N1(CCNCC1)NC(C1=CC=C(C=C1)F)=O
reactant | cinnamic acid | 161 mg | C(C=CC1=CC=CC=C1)(=O)O | C9H8O2
reactant | 1-hydroxybenzotriazole | 173 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-ethyl-N′-(3-dimethylaminopropyl)carbodiimide hydrochloride | 246 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
solvent | brine | [Cl-].[Na+].O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 0.28 ml | C(C)N(CC)CC | C6H15N
product | N-(4-cinnamoyl-1-piperazinyl)-p-fluorobenzamide | 0.14 g | C(C=CC1=CC=CC=C1)(=O)N1CCN(CC1)NC(C1=CC=C(C=C1)F)=O | C20H20FN3O2
